US05011849
52.5 g (0.2 mol) of methyl 3-iodobenzoate were heated to reflux for 18 hours with 81 g (0.2 mol) of Lawesson reagent in 330 ml of xylene. By working-up in an analogous manner to that described in Example 1(B) there were obtained 47 g (84.4%) of O-methyl 3-iodothiobenzoate as a yellow evil-smelling oil which was used without further purification.

reactant | methyl 3-iodobenzoate | 0.2 mol, 52.5 g | IC=1C=C(C(=O)OC)C=CC1 | C8H7IO2
reactant | Lawesson reagent | 0.2 mol, 81 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | xylene | 330 ml | C=1(C(=CC=CC1)C)C | C8H10
product | O-methyl 3-iodothiobenzoate | 47 g, 84.4% | IC=1C=C(C(=S)OC)C=CC1 | C8H7IOS
